US05171860
3-[2-[(5-Dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-amino-5-methylsulfonylisothiazole-1-oxide
To a solution of 2-[(5-dimethylaminomethyl-2furanyl)methylthio]ethylamine (440 mg, 2 mmol) in acetonitrile (6 ml) there was added 3-ethoxy-4-amino-5-methylsulfonylisothiazole-1-oxide (480 mg, 2 mmol). This mixture was stirred under a nitrogen atmosphere for 15 hours as product slowly crystallized out. Precipitate was collected by filtration, washed with acetonitrile, diethyl ether and air dried to give 650 mg, of title compound, mp 134°-137°.

reactant | 2-[(5-dimethylaminomethyl-2furanyl)methylthio]ethylamine | 2 mmol, 440 mg | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 3-ethoxy-4-amino-5-methylsulfonylisothiazole-1-oxide | 2 mmol, 480 mg | C(C)OC1=NS(C(=C1N)S(=O)(=O)C)=O | C6H10N2O4S2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 3-[2-[(5-Dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-amino-5-methylsulfonylisothiazole-1-oxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(C(=C1N)S(=O)(=O)C)=O | C14H22N4O4S3
